US04318914
A mixture of 18 g. of 16-hydroxyhexadecanoic acid and 160 g. of 30-34% hydrogen bromide in acetic acid is treated with 32 ml. of concentrated sulfuric acid and stirred at ambient temperature for 18 hours. The solution is stirred under reflux for 7 hours and then poured into 500 ml. of ice-water and filtered.A methylene chloride solution of the product is Darco clarified, dried over magnesium sulfate, and evaporated. Crystallization of the residue from ether-petroleum ether and then acetonitrile affords 16-bromohexadecanoic acid as a white solid.

reactant | 16-hydroxyhexadecanoic acid | OCCCCCCCCCCCCCCCC(=O)O | C16H32O3
reactant | hydrogen bromide | Br | BrH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Darco | C | CH4
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 16-bromohexadecanoic acid | BrCCCCCCCCCCCCCCCC(=O)O | C16H31BrO2
